US04829058
(a) 3,4,5-Tribromonitrobenzene
At 20° C., with stirring and cooling with ice, a solution of 2,6-dibromo-4-nitro-aniline (47.2 g) in acetic acid (1.6 liters) is slowly poured into a solution of sodium nitrite (12 g) in concentrated sulphuric acid (85 ml). Then, the mixture is stirred for 20 minutes at ambient temperature. The solution thus prepared is then slowly added with stirring and cooling with ice to a solution of copper (I) bromide (12.8 g) in 63% hydrobromic acid (40 ml)/. After it has all been added the mixture is stirred for a further 30 minutes. It is diluted with water, the precipitate is filtered off and washed with water. This crude product is recrystallized from methanol.

reactant | 2,6-dibromo-4-nitro-aniline | 47.2 g | BrC1=C(N)C(=CC(=C1)[N+](=O)[O-])Br | C6H4Br2N2O2
reactant | sodium nitrite | 12 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 40 ml | Br | BrH
solvent | acetic acid | 1.6 liters | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 85 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
catalyst | copper (I) bromide | 12.8 g | [Cu]Br
product | 3,4,5-Tribromonitrobenzene | BrC=1C=C(C=C(C1Br)Br)[N+](=O)[O-] | C6H2Br3NO2
